US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(1-methyl-cyclohex-3-enylmethyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 1-methylcyclohex-3-enylmethanol according to the procedure of Example 1 as an off-white solid; 1H NMR (DMSO-d6,400 MHz) δ 0.84 (s, 6H, 2×CH3), 1.09 (d, J=6.4 Hz, 3H, CH3), 1.25-1.4 (m, 4H, CH2), 1.6-1.65 (m, 2H, CH2), 1.8-2.0 (m, 6H, CH2), 2.6 (m, 1H, CH), 3-3.3 (m, 3H, CH, CH2), 3.4 (brs, 1H, CH), 4.04 (m, 4H, OCH2, OCH2), 5.05 (m, 1H, CH), 5.55-5.65 (m, 4H, CH), 6.35 (d, J=4.17 Hz, 1H, OH), 6.85 (dd, J=7.9, 1.32 Hz, 1H, Ar--H), 7.07 (m, 2H, Ar--H), 7.38-7.42 (m, 3H, Ar--H), 7.5 (s, 1H, Ar--H), 8.8 (brs, 1H, NH), 9.4 (brs, 1H, NH); IR (KBr, cm-1) 3400 (OH), 2900 (NH), 1760 (CO); MS m/e 638 (M+H)+ ; Analysis for: C36H44ClNO7 ×HCl: Calc'd: C, 64.09; H, 6.72; N, 2.08; Found: C, 64.69; H, 7.19; N, 1.67.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 1-methylcyclohex-3-enylmethanol | CC1(CC=CCC1)CO | C8H14O
reactant | KBr | [K+].[Br-]
reactant | HCl | Cl | ClH
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(1-methyl-cyclohex-3-enylmethyl) ester | CC1(CC=CCC1)COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC2(CC=CCC2)C | C36H44ClNO7
